 -------------- Lab3 TCFE -----------------


* forces current values to be saved
.options savecurrents

* Declaring Componentes

* Independent Src
Vs 1 6 0 sin(0 12 50) 

* Rectifier Diodes (First2 Positive and Sec2 Negative) 
DR1 1 2 Default
DR2 0 6 Default

DR3 6 2 Default
DR4 0 1 Default

* Resistors (Set to 1kOhm - prob to change)
R1 2 0 1k
R2 2 3 1k 

* Limiter Diodes
DL1 3 4 Default
DL2 4 5 Default
DL3 5 0 Default

* Capacitor from Envelope (Set to 1uF - prob to change)
C1 2 0 1uF





.model Default D
.op
.end


.control 

tran 1e-5 50e-3

* makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


.endc


